US09102624B2
Preparation 11: 5-Bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide
5-Bromo-1-(4-cyano-benzyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide can be prepared as described for preparation 9, substituting methylamine with 4-methylsulfonylbenzylamine hydrochloride; ESI mass spectrum: [M+H]+=528 (bromine isotope pattern); Retention time HPLC: 0.95 min (Z018_S04).

reactant | 5-Bromo-1-(4-cyano-benzyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CN(C(=C(C2=O)Br)C)CC2=CC=C(C=C2)C#N)C=C1 | C23H20BrN3O4S
reactant | 4-methylsulfonylbenzylamine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
reactant | bromine | BrBr | Br2
product | 5-Bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CN(C(=C(C2=O)Br)C)C(C)C2=CC=C(C=C2)C#N)C=C1 | C24H22BrN3O4S
